US04933350
A stirred solution of methyl 2-phenyl-2-bromoacetate (53.8 g) in acetonitrile (450 ml) was treated with triethylamine (45.2 ml). The mixture was then cooled in an ice-bath and treated, dropwise during 15 minutes, with a solution of aminoacetaldehyde dimethylacetal (37.8 ml) in acetonitrile (80 ml), keeping the temperature below 45° C. The mixture was stirred at room temperature for 2 hours and then left to stand for 48 hours. The mixture was then diluted with diethyl ether (800 ml) and washed with water (3×250 ml). The ethereal was dried over magnesium sulphate and evaporated, to give methyl 2-(2,2-dimethoxyethylamino)phenylacetate (55.5 g), in the form of a colourless oil [N.M.R. (in CDCl3) 2.10 (1H, b), 2.57-2.79 (2H, m), 3.34 (3H, s), 3.37 (3H, s), 3.68 (3H, s), 4.50 (1H, t, J=6 Hz), 7.35 (5H, m)].

reactant | methyl 2-phenyl-2-bromoacetate | 53.8 g | C1(=CC=CC=C1)C(C(=O)OC)Br | C9H9BrO2
reactant | triethylamine | 45.2 ml | C(C)N(CC)CC | C6H15N
reactant | aminoacetaldehyde dimethylacetal | 37.8 ml | COC(CN)OC | C4H11NO2
solvent | acetonitrile | 450 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | diethyl ether | 800 ml | C(C)OCC | C4H10O
product | methyl 2-(2,2-dimethoxyethylamino)phenylacetate | 55.5 g | COC(CNC1=C(C=CC=C1)CC(=O)OC)OC | C13H19NO4
